US05391570
4-(1,4-benzodioxan-6-yl)-4-hydroxycyclohexane
A solution of 1,4-cyclohexanedione monoethylene ketal (7.8 g, 50 mmole) in 50 ml dry THF was added to a of the Grignard reagent prepared from magnesium metal (1.34 g, 55 mmole) and 6-bromo-1,4-benzodioxane (10.75 g, 50 mmole). The mixture was stirred for 16 hr, quenched with saturated NH4Cl and extracted with ether. The ether extracts were dried with Na2SO4 and the solvent removed in vacuo. Acetone (75 ml) and 1 N HCl (75 ml) were added and the solution was stirred 18 hr to give a tan precipitate which was filtered and air dried (6.38 g, 59.1%). This material was used without further purtification.

reactant | 1,4-cyclohexanedione monoethylene ketal | 50 mmole, 7.8 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | magnesium | 55 mmole, 1.34 g | [Mg] | Mg
reactant | 6-bromo-1,4-benzodioxane | 50 mmole, 10.75 g | BrC1=CC2=C(OCCO2)C=C1 | C8H7BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(1,4-benzodioxan-6-yl)-4-hydroxycyclohexane | O1CCOC2=C1C=CC(=C2)C2(CCCCC2)O | C14H18O3
